US07989450B2
4-Phenyl-5-methyl-3-(5-methylfuran-2-yl)isoxazole.
Prepared with 60% yield by dehydration/aromatisation of 3-(5-methylfuran-2-yl)-4-phenyl-5-hydroxy-5-methyl-2-isoxazoline. 60% yield. Yellow oil. FT-IR (KBr): 3058, 2924, 2852, 1627, 1598, 1566, 1498, 1435, 1239, 1208, 1149, 1074, 1024, 922, 898, 791, 772, 701 cm−1. 1H NMR (400 MHz, CDCl3, δ): 7.44-7.40 (m, 3H, aromatic protons); 7.31-7.24 (m, 2H, aromatic protons); 6.12 (d, 1H, J=3.3 Hz, furyl protons); 5.94-5.92 (m, 1H, furyl protons); 2.36 (s, 3H); 2.32 (s, 3H). 13C NMR (100 MHz, CDCl3, δ): 166.3, 153.9, 153.0, 142.2, 130.1, 130.0, 128.6, 128.1, 112.8, 107.3, 13.6, 11.2. GC-MS (70 eV) m/z (int. rel.): 239 (M+, 48), 198 (15), 197 (100), 196 (23), 168 (5), 167 (6), 154 (7), 129 (7), 127 (5), 115 (5), 89 (4), 43 (7). 102 (10), 261 (100), 234 (10), 232 (10), 154 (54), 153 (33), 129 (12), 127 (31), 77 (9), 43 (14). Anal. Calc. for C15H13NO2: C, 75.30; H, 5.48; N, 5.85. Found: C, 75.08; H, 5.60; N, 5.90.

reactant | 3-(5-methylfuran-2-yl)-4-phenyl-5-hydroxy-5-methyl-2-isoxazoline | CC1=CC=C(O1)C1=NOC(C1C1=CC=CC=C1)(C)O | C15H15NO3
reactant | KBr | [K+].[Br-]
product | 4-Phenyl-5-methyl-3-(5-methylfuran-2-yl)isoxazole | 60% yield | C1(=CC=CC=C1)C=1C(=NOC1C)C=1OC(=CC1)C | C15H13NO2
